US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(2,2,2-trifluoro-ethylamino)-ethyl]-acetamide
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (267 mg, 0.51 mmol), N-(2,2,2-trifluoro-ethyl)-ethane-1,2-diamine (123 mg, 0.86 mmol), HOBt (104 mg, 0.77 mmol), EDAC (154 mg, 0.81 mmol) and TEA (0.14 mL, 1 mmol) in DMF (3 mL) was stirred At rt for 48 hours. The reaction was concentrated, diluted with sat. sodium bicarbonate and extracted with DCM. The organic layer was washed with brine, dried and purified on a silica gel column to give 237 mg (72%) of the titled compound.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.51 mmol, 267 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | N-(2,2,2-trifluoro-ethyl)-ethane-1,2-diamine | 0.86 mmol, 123 mg | FC(CNCCN)(F)F | C4H9F3N2
reactant | HOBt | 0.77 mmol, 104 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.81 mmol, 154 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(2,2,2-trifluoro-ethylamino)-ethyl]-acetamide | 237 mg, 72% | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCNCC(F)(F)F)C | C28H27Cl2F3N4O4S
